US06541638B2
To 106 mg (0.17 mmol) (2S,4R)-4-[[[[4-Acetylsulfanyl-1-(biphenyl-4-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester in 10 ml THF were added 10 ml 0.1 M LiOH at 0° C. and the solution was stirred at RT for 2 h, poured on 2 ml 1M KHSO4 and extracted with EtOAc. The combined organic layers were washed with brine and were dried with Na2SO4. The residue was titrurated with hexane to give 67 mg (69%) (2S,4R)-4-[[[[1-(Biphenyl-4-sulfonyl)-4-mercapto-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid as white solid, MS: 568 (MH+).

reactant | (2S,4R)-4-[[[[4-Acetylsulfanyl-1-(biphenyl-4-sulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid methyl ester | 0.17 mmol, 106 mg | COC(C1=CC=C(C=C1)N(C)C(CN(C)C(=O)[C@H]1N(C[C@@H](C1)SC(C)=O)S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C31H33N3O7S2
reactant | LiOH | 0.1 M, 10 ml | [Li+].[OH-]
reactant | KHSO4 | 1M, 2 ml | OS(=O)(=O)[O-].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S,4R)-4-[[[[1-(Biphenyl-4-sulfonyl)-4-mercapto-pyrrolidine-2-carbonyl]-methyl-amino]-acetyl]-methyl-amino]-benzoic acid | 67 mg, 69% | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)S)C(=O)N(C)CC(=O)N(C1=CC=C(C(=O)O)C=C1)C)C1=CC=CC=C1 | C28H29N3O6S2
